US08633173B2
[8-(2-Methoxy-5-trifluoromethyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridine-2-yl]-(1,2,3,4-tetrahydro-isoquinolin-6-yl)-amine was prepared from 6-[8-(2-methoxy-5-trifluoromethyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamino]-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester and trifluoroacetic acid (1 mL) in a manner analogous to Example 312 to give product (0.255 g). MP=99-103° C. 1H NMR (400 MHz, (D3C)2SO, δ, ppm): 9.47 (s, 1H), 8.79 (d, 1H), 7.95 (s, 1H), 7.80 (d, 1H), 7.62 (d, 1H), 7.38 (m, 3H), 7.05 (t, 1H), 6.85 (d, 1H), 3.85 (s, 3H), 3.75 (s, 2H), 2.92 (m, 2H), 2.63 (br m, 3H): MS=440 (MH)+.

reactant | 6-[8-(2-methoxy-5-trifluoromethyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamino]-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2CC1)NC1=NN2C(C(=CC=C2)C2=C(C=CC(=C2)C(F)(F)F)OC)=N1 | C28H28F3N5O3
reactant | trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
product | [8-(2-Methoxy-5-trifluoromethyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridine-2-yl]-(1,2,3,4-tetrahydro-isoquinolin-6-yl)-amine | COC1=C(C=C(C=C1)C(F)(F)F)C=1C=2N(C=CC1)N=C(N2)NC=2C=C1CCNCC1=CC2 | C23H20F3N5O
